* C:\Users\91902\eSim-Workspace\LVDS_Drvr\LVDS_Drvr.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 03/09/22 15:05:42

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
M15  Net-_M1-Pad1_ Net-_M10-Pad1_ Net-_M11-Pad3_ Net-_M11-Pad3_ mosfet_p		
M11  Net-_M11-Pad1_ Net-_M11-Pad2_ Net-_M11-Pad3_ Net-_M11-Pad3_ mosfet_p		
M6  Net-_M10-Pad1_ Net-_M10-Pad1_ Net-_M11-Pad3_ Net-_M11-Pad3_ mosfet_p		
M5  Net-_M11-Pad2_ Net-_M11-Pad2_ Net-_M11-Pad3_ Net-_M11-Pad3_ mosfet_p		
M1  Net-_M1-Pad1_ Net-_M1-Pad2_ vob vob mosfet_n		
M2  Net-_M1-Pad1_ Net-_M2-Pad2_ voa voa mosfet_n		
M3  vob Net-_M2-Pad2_ Net-_M16-Pad1_ Net-_M16-Pad1_ mosfet_n		
M4  voa Net-_M1-Pad2_ Net-_M16-Pad1_ Net-_M16-Pad1_ mosfet_n		
M16  Net-_M16-Pad1_ Net-_M11-Pad1_ GND GND mosfet_n		
M12  Net-_M11-Pad1_ Net-_M11-Pad1_ GND GND mosfet_n		
M7  Net-_M11-Pad2_ voa Net-_M13-Pad1_ Net-_M13-Pad1_ mosfet_n		
M8  Net-_M10-Pad1_ Vocm Net-_M13-Pad1_ Net-_M13-Pad1_ mosfet_n		
M10  Net-_M10-Pad1_ Vocm Net-_M10-Pad3_ Net-_M10-Pad3_ mosfet_n		
M9  Net-_M11-Pad2_ vob Net-_M10-Pad3_ Net-_M10-Pad3_ mosfet_n		
M13  Net-_M13-Pad1_ Net-_M13-Pad2_ GND GND mosfet_n		
M14  Net-_M10-Pad3_ Net-_M13-Pad2_ GND GND mosfet_n		
vdd1  Net-_M11-Pad3_ GND DC		
vbias1  Net-_M13-Pad2_ GND DC		
v1  Net-_M1-Pad2_ GND pulse		
v2  Net-_M2-Pad2_ GND pulse		
U1  Net-_M1-Pad2_ plot_v1		
U2  Net-_M2-Pad2_ plot_v1		
U3  vob plot_v1		
U4  voa plot_v1		

.end
